US07141562B2
2-amino-6-bromo-4-fluorophenol
Sodium dithionite (58 g, 335 mmol) was dissolved in warm water (300 mL) and was added slowly to a solution of 6-bromo-4-fluoro-2-nitrophenol (11.8 g, 50 mmol) in 250 mL of ethanol heated on a steam bath. The reaction mixture turned from deep orange to light yellow. The suspension is diluted with water till a clear yellow solution was obtained. Partial concentration on a rotary evaporator induced crystallization. The mixture was then cooled to room temperature and crystals formed. Filtration and drying afforded the title compound as a white solid (5.04 g, 49% yield). MS 207 (M+H)+

reactant | Sodium dithionite | 335 mmol, 58 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 6-bromo-4-fluoro-2-nitrophenol | 50 mmol, 11.8 g | BrC1=CC(=CC(=C1O)[N+](=O)[O-])F | C6H3BrFNO3
solvent | water | 300 mL | O | H2O
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-amino-6-bromo-4-fluorophenol | 5.04 g, 49% yield | NC1=C(C(=CC(=C1)F)Br)O | C6H5BrFNO
